US05665718
6.2 g (89.2 mmol) of hydroxylamine hydrochloride and 16.3 g (63.6 mmol) of 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile were added in succession at room temperature under argon to a sodium methylate solution which had been prepared in the usual manner from 2.0 g (86.9 mmol) of sodium and 85 ml of methanol. The reaction mixture was stirred at room temperature for 24 hrs. and then cooled in an ice bath. The separated crystals were filtered off and triturated in 35 ml of water. The white crystals were filtered off and dried at 60° in a vacuum. There were obtained 12.4 g (67%) of 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime as white crystals of m.p. 249°-250° (dec.).

reactant | hydroxylamine hydrochloride | 89.2 mmol, 6.2 g | Cl.NO
reactant | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 63.6 mmol, 16.3 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C#N)C)=O)C1 | C13H9FN4O
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 86.9 mmol, 2.0 g | [Na] | Na
solvent | methanol | 85 ml | CO | CH4O
product | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | 12.4 g, 67% | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(N)=NO)C)=O)C1 | C13H12FN5O2
